US06498196B1
Step 6: Thioacetic acid S-(trans-3-tert-butoxycarbonylamino-6-tert-butoxycarbonyloxy-4,4-diethyl-1,2,3,4-tetrahydro-naphthalen-2-yl) ester (E)
5-tert-Butoxycarbonyloxy-7,7-diethyl-1a,2,7,7a-tetrahydro-1-aza-cyclopropa[b]naphthalene-1-carboxylic acid tert-butyl ester (218 mg, 0.52 mmol) and the thiolacetic acid (2 mL) was stirred at r.t for over night. The mixture was diluted with Et2O (50 mL), washed with H2O, NaHCO3 (3×), H2O, brine, dried over MgSO4. The residu was purified by a flash chromatrgraphy (10% AcOEt/Hex) (234 mg, 91%). 1H NMR (CDCl3): 7.05-6.95 (3H, m, Har), 4.80 (1H, d, J=10.5 Hz, NH), 4.15-4.00 (2H, m, CHCH), 3.17 (1H, dd J=5 Hz and 17 Hz, PhCHH), 2.97 (1H, dd, J=12 Hz and 17 Hz, PhCHH), 2.40 (3H, s, SCOCH3), 1.86 (1H, m), 1.70 (2H, m), 1.60-1.55 (11H, m), 1.47 (9H, s, t-butyl), 0.89 (3H, t, J=7.5 Hz, CH3), 0.71 (3H, t, J=7.5 Hz, CH3).

reactant | 5-tert-Butoxycarbonyloxy-7,7-diethyl-1a,2,7,7a-tetrahydro-1-aza-cyclopropa[b]naphthalene-1-carboxylic acid tert-butyl ester | 0.52 mmol, 218 mg | C(C)(C)(C)OC(=O)N1C2C(C3=CC(=CC=C3CC21)OC(=O)OC(C)(C)C)(CC)CC | C24H35NO5
reactant | thiolacetic acid | 2 mL | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | Et2O | 50 mL | CCOCC | C4H10O
product | Thioacetic acid S-(trans-3-tert-butoxycarbonylamino-6-tert-butoxycarbonyloxy-4,4-diethyl-1,2,3,4-tetrahydro-naphthalen-2-yl) ester | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC2=CC=C(C=C2C1(CC)CC)OC(=O)OC(C)(C)C)SC(C)=O | C26H39NO6S
